US07235572B2
To an ice cooled solution of 198 mg (0.55 mmol) [4-(tert-butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid tert-butyl ester in 2 ml of THF was added a 1 M solution of tetrabutylammonium fluoride hydrate in tetrahydrofuran (0.55 ml, 0.55 mmol). The reaction mixture was stirred for 1 h at ambient temperature. Diethyl ether was added and the ether solution was washed with saturated aqueous NH4Cl solution, water and brine. Evaporation of the solvent under reduced pressure gave 49 mg (0.2 mmol, 36%) of (4-hydroxy-indol-1-yl)-acetic acid tert-butyl ester as white crystals.

reactant | [4-(tert-butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid tert-butyl ester | 0.55 mmol, 198 mg | C(C)(C)(C)OC(CN1C=CC2=C(C=CC=C12)O[Si](C)(C)C(C)(C)C)=O | C20H31NO3Si
reactant | tetrabutylammonium fluoride hydrate | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.55 mmol, 0.55 ml | O1CCCC1 | C4H8O
product | (4-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | 0.2 mmol, 49 mg, 36% | C(C)(C)(C)OC(CN1C=CC2=C(C=CC=C12)O)=O | C14H17NO3
